US09403798B2
tert-Butyl (R)-[1-(4-fluorophenyl)piperidin-3-yl]carbamate
Under a nitrogen atmosphere, a toluene solution (4 mL) of tert-butyl (R)-piperidin-3-yl-carbamate (500 mg, 2.50 mmol), 4-bromo-1-fluorobenzene (0.250 mL, 2.28 mmol), 2-(di-tert-butylphosphino)biphenyl (136 mg, 0.500 mmol), tris(dibenzylideneacetone)dipalladium (0) (104 mg, 0.130 mmol), and sodium tert-butoxide (307 mg, 3.50 mmol) was stirred at 100° C. for 4 hours. After completion of the reaction, the reaction solution was concentrated under reduced pressure and purified by silica gel column chromatography (hexane/ethyl acetate=100/0→70/30 (v/v)) to obtain the title compound (550 mg, yield 82%).

reactant | tert-butyl (R)-piperidin-3-yl-carbamate | 2.50 mmol, 500 mg | N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | 4-bromo-1-fluorobenzene | 2.28 mmol, 0.250 mL | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | 2-(di-tert-butylphosphino)biphenyl | 0.500 mmol, 136 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | sodium tert-butoxide | 3.50 mmol, 307 mg | CC(C)([O-])C.[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium | 0.130 mmol, 104 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl (R)-[1-(4-fluorophenyl)piperidin-3-yl]carbamate | 550 mg, yield 82% | FC1=CC=C(C=C1)N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C16H23FN2O2
